US06777557B2
5,6-Dihydro-8-methyl-6-oxo-8H-thiazolo[2,3-c](1,4)oxazin-4-ium bromide
1-(2-Thiazolyl)ethanol (0.5 g, 3.87 mmole), bromoacetic acid (0.537 g, 3.86 mmole), and acetonitrile (0.125 mL) were heated in an oil bath with stirring at 105 C. for 6 hr. The mixture was dissolved in 5 mL 4:1 acetonitrile/methanol and stored at 4 C. for 17 hr. The crystals which separated were filtered out and combined from two identical runs, and recrystalized from methanol/acetonitrile/ether to give a total of 0.32 g of the title compound, mp 214-215.5 C. Calcd for C7H8NO2SBr: C 33.5; H 3.20; N 5.59; found: C 33.62; H 3.16; N 5.61.

reactant | 1-(2-Thiazolyl)ethanol | 3.87 mmole, 0.5 g | S1C(=NC=C1)C(C)O | C5H7NOS
reactant | bromoacetic acid | 3.86 mmole, 0.537 g | BrCC(=O)O | C2H3BrO2
reactant | acetonitrile | 0.125 mL | C(C)#N | C2H3N
solvent | acetonitrile methanol | C(C)#N.CO
product | 5,6-Dihydro-8-methyl-6-oxo-8H-thiazolo[2,3-c](1,4)oxazin-4-ium bromide | 0.32 g | [Br-].CC1OC(C[N+]2=C1SC=C2)=O | InChI=1S/C7H8NO2S.BrH/c1-5-7-8(2-3-11-7)4-6(9)10-5;/h2-3,5H,4H2,1H3;1H/q+1;/p-1
